US04241064
1-Hydroxymethyl-4-Hydroxy-9H-pyrido[3,4-b]Indole
In 30 ml of dry tetrahydrofuran were dissolved 70 mg of the product of 1-carbomethoxy-4-acetoxy-9H-pyrido[3,4-b]indole. With ice-cooling, 4.0 ml of diisobutylaluminum hydride were added. The reaction mixture was allowed to stand for 2 hours, after which the unreacted reagent was decomposed with a small amount of water. The mixture was then extracted with ethyl acetate. The organic layers were pooled and concentrated and the resultant crystals were recrystallized from ethyl acetate to yield 16 mg of the title compound as white needles melting at 148°-150°0 C. (decomp.). The IR absorption spectrum shows absorption at 1680 cm-1 has disappeared. An intense absorption was observed at 1620 cm-1. Mol. wt. (based on mass spectrum) 214.

reactant | 1-carbomethoxy-4-acetoxy-9H-pyrido[3,4-b]indole | C(=O)(OC)C1=NC=C(C2=C1NC1=CC=CC=C21)OC(C)=O | C15H12N2O4
reactant | diisobutylaluminum hydride | 4.0 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-Hydroxymethyl-4-Hydroxy-9H-pyrido[3,4-b]Indole | 16 mg | OCC1=NC=C(C2=C1NC1=CC=CC=C21)O | C12H10N2O2
